US04699905
α-[6-(1-Benzyloxycarbonyl-3-phenylpropylamino)-5-oxo-2-(3-thienyl)perhydro-1,4-thiazepin-4-yl]acetic acid (Compound No. 86)
180 mg of isomer B of t-butyl α-[6-(1-benzyloxycarbonyl-3-phenylpropylamino)-5-oxo-2-(3-thienyl)perhydro-1,4-thiazepin-4-yl]acetate were treated with trifluoroacetic acid by the procedure described in Example 43, to remove the t-butyl group and give 140 mg of the title compound as a powder.

reactant | t-butyl α-[6-(1-benzyloxycarbonyl-3-phenylpropylamino)-5-oxo-2-(3-thienyl)perhydro-1,4-thiazepin-4-yl]acetate | C(C1=CC=CC=C1)OC(=O)C(CCC1=CC=CC=C1)NC1C(N(CC(SC1)C1=CSC=C1)CC(=O)OC(C)(C)C)=O | C32H38N2O5S2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | α-[6-(1-Benzyloxycarbonyl-3-phenylpropylamino)-5-oxo-2-(3-thienyl)perhydro-1,4-thiazepin-4-yl]acetic acid | 140 mg | C(C1=CC=CC=C1)OC(=O)C(CCC1=CC=CC=C1)NC1C(N(CC(SC1)C1=CSC=C1)CC(=O)O)=O | C28H30N2O5S2
